US06967220B2
A solution containing tert-butyl N-(tert-butoxycarbonyloxy)-N-[3,5-diiodo-4-(4-hydroxyphenoxy)benzyl]carbamate (150 mg, 0.21 mmol) in 4 ml of 30% TFA in CH2Cl2 was stirred for 2 h and then evaporated to dryness to afford 4-(4-hydroxyaminomethyl-2,6-diiodophenoxy)phenol (M+1=484). This residue was then treated with triethylamine (0.5 ml) and the mixed anhydride (0.5 ml) [made from formic acid and acetic anhydride (1:2 v/v) at 50° C. for 1 h] in 2 ml of CH2Cl2 for 0.5 h. All volatiles were removed and the residue dissolved in methanol then treated with 10% NaOH for 0.5 h. This was diluted with ethyl acetate and water and adjusted to pH of 6. The layers were separated and the organic extract was evaporated in vacuo. Purification by preparative HPLC afforded the title compound (27 mg, 25%) as an off white solid. 1H NMR (400 MHz, CD3OD): δ 8.38, 8.18* (s, 1H); 7.89*, 7.86 (s, 2H); 6.69 (d, j=8.8 Hz, 2H); 6.55 (d, j=8.8 Hz, 2H),; 4.67, 4.63* (s, 2H). M+1=512. *: minor rotamer

reactant | tert-butyl N-(tert-butoxycarbonyloxy)-N-[3,5-diiodo-4-(4-hydroxyphenoxy)benzyl]carbamate | 0.21 mmol, 150 mg | C(C)(C)(C)OC(=O)ON(C(OC(C)(C)C)=O)CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I | C23H27I2NO7
solvent | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-hydroxyaminomethyl-2,6-diiodophenoxy)phenol | ONCC1=CC(=C(OC2=CC=C(C=C2)O)C(=C1)I)I | C13H11I2NO3
